US06448261B1
N-[2-Bromo-4-(1-methylethyl)phenyl]-6-methyl-3-nitro-N-(1-propylbutyl)pyridin-2,4-diamine
2-Chloro-6-methyl-3-nitro-N-(1-propylbuty)pyridin-4-amine (0.5 g, 1.75 mmol) and 2-bromo-4-isopropylaniline (0.74 g, 3.5 mmol) were heated at 140° C. for 4.5 h. After cooling it was dissolved in CH2Cl2 and filtered through a short column of silica gel. The filtrate was concentrated and chromatographed on silica gel (5% EtOAc/hexanes eluting solvent) to give the product (0.7 g).

reactant | 2-Chloro-6-methyl-3-nitro-N-(1-propylbuty)pyridin-4-amine | 1.75 mmol, 0.5 g | ClC1=NC(=CC(=C1[N+](=O)[O-])NC(CCC)CCC)C | C13H20ClN3O2
reactant | 2-bromo-4-isopropylaniline | 3.5 mmol, 0.74 g | BrC1=C(N)C=CC(=C1)C(C)C | C9H12BrN
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[2-Bromo-4-(1-methylethyl)phenyl]-6-methyl-3-nitro-N-(1-propylbutyl)pyridin-2,4-diamine | 0.7 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=C1[N+](=O)[O-])N)C)C(CCC)CCC | C22H31BrN4O2
